US07893063B2
Sodium borohydride (0.076 g) was added portionwise to a mixture of 4-[3-(1-tert-butoxycarbonylpiperidin-3-ylcarbonylamino)phenyl]-2-(5-formylfuran-2-yl)-6-morpholinopyrimidine (0.112 g) and ethanol (5 ml) and the reaction mixture was stirred at ambient temperature for 3 hours. The mixture was evaporated to give 4-[3-(1-tert-butoxycarbonylpiperidin-3-ylcarbonylamino)phenyl]-2-(5-hydroxymethylfuran-2-yl)-6-morpholinopyrimidine which was used without further purification. A mixture of the material so obtained, trifluoroacetic acid (1.5 ml) and methylene chloride (2.5 ml) was stirred at ambient temperature for 1 hour and then heated to 40° C. for 10 minutes. The mixture was evaporated and the residue was partitioned between methylene chloride and water. The aqueous layer was separated, basified by the addition of aqueous ammonium hydroxide (d=0.88) and extracted with methylene chloride. The organic extracts were combined, dried over magnesium sulphate and evaporated. The residue was purified by HPLC using a Waters ‘Xterra’ preparative reversed-phase column (5 microns silica, 19 mm diameter, 100 mm length) using decreasingly polar mixtures of water [containing 1% aqueous ammonium hydroxide (d=0.88)] and acetonitrile as eluent. There was thus obtained the title compound as a solid (4.4 mg); NMR Spectrum: (CD3OD) 1.47-1.58 (m, 1H), 1.64-1.75 (m, 2H), 1.91-1.97 (m, 1H), 2.5-2.65 (m, 2H), 2.82 (m, 1H), 2.9-2.94 (m, 1H), 3.07 (m, 1H), 3.17-3.28 (m, 8H), 4.53 (s, 2H), 6.38 (d, 1H), 6.85 (s, 1H), 7.15 (d, 1H), 7.34 (t, 1H), 7.6 (d, 1H), 7.69 (d, 1H), 8.16 (s, 1H); Mass Spectrum: M+H+ 464.

reactant | Sodium borohydride | 0.076 g | [BH4-].[Na+]
reactant | 4-[3-(1-tert-butoxycarbonylpiperidin-3-ylcarbonylamino)phenyl]-2-(5-formylfuran-2-yl)-6-morpholinopyrimidine | 0.112 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)NC=1C=C(C=CC1)C1=NC(=NC(=C1)N1CCOCC1)C=1OC(=CC1)C=O | C30H35N5O6
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-[3-(1-tert-butoxycarbonylpiperidin-3-ylcarbonylamino)phenyl]-2-(5-hydroxymethylfuran-2-yl)-6-morpholinopyrimidine | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)NC=1C=C(C=CC1)C1=NC(=NC(=C1)N1CCOCC1)C=1OC(=CC1)CO | C30H37N5O6
